US09353107B2
Step-ii: 5-(4-(1,4-diazepan-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-1,4-diazepane-1-carboxylate (120 mg, 0.166 mmol) was deprotected in TFA/DCM (3/1 ml) to afford 100 mg (97.0% yield) of the titled compound. MS: m/z=621.2 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-1,4-diazepane-1-carboxylate | 0.166 mmol, 120 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CCC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H41FN6O4S
solvent | TFA DCM | 1 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(4-(1,4-diazepan-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 100 mg, 97.0% yield | N1(CCNCCC1)C1=CC=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2 | C35H33FN6O2S
